US05393875
8.4 g (55.4 mm01) of DBU were added dropwise to a solution of 3.3 g (27.7 mmol) of 2-mercaptoisobutyric acid [Can. J. Chem. 61(8), 1872]and 6.9 g (27.7 mmol) of benzyl 2-benzylacrylate (EPA 0117429), whereby the temperature of the reaction mixture was held between 5 and 10°. After completion of the addition the mixture was stirred at 10° for a further 5 hours. Subsequently, the reaction mixture was treated dropwise with 22.5 g (36.6 mmol) of potassium monopersulphate triple salt suspended in 450 ml of water while cooling with ice, whereby the temperature was held below 10°. Thereafter, the mixture was stirred at the same temperature for a further hour, then cooled to 0° and a further 22.5 g (36.6 mmol) of potassium monopersulphate triple salt were added spatula-wise. The mixture was left to warm slowly to room temperature and was stirred for a further 15 hours. For the working-up, the mixture was diluted with 200 ml of water and extracted four times with 60 ml of ethyl acetate each time. The combined organic extracts were dried over sodium sulphate and evaporated under reduced pressure until the product began to crystallize. Then, 30 ml of hexane and 20 ml of ether were added while stirring, the separated product was subsequently filtered off under suction and dried. There were obtained 9.7 g of (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid as a colourless solid; MS: 422 (M+NH4)+.

reactant | DBU | 8.4 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-mercaptoisobutyric acid | 27.7 mmol, 3.3 g | SC(C(=O)O)(C)C | C4H8O2S
reactant | benzyl 2-benzylacrylate | C(C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)=C | C17H16O2
reactant | potassium monopersulphate | 36.6 mmol, 22.5 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | potassium monopersulphate | 36.6 mmol, 22.5 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
solvent | water | 450 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | (RS)-2-[[2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-2-methylpropionic acid | 9.7 g | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C(C(=O)O)(C)C)CC1=CC=CC=C1 | C21H24O6S
